US07625908B2
N-{2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazol-5-yl)oxy]ethyl}-N-(tetrahydro-2H-pyran-4-yl)acetamide
The procedure described in Example 5 was repeated using N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-[2-(tetrahydro-2H-pyran-4-ylamino)ethoxy]quinazolin-4-amine and acetyl chloride to give the title compound in 68% yield; NMR spectrum (DMSO-d6) 1.49-1.71 (m, 2H), 1.75-1.98 (m, 2H), 2.11 (s, 3H), 3.36-3.45 (m, 2H), 3.78-3.96 (m, 5H), 4.26-4.46 (m, 2H), 5.31 (s, 2H), 7.22 (d, 1H), 7.26 (d, 1H), 7.33 (d, 1H), 7.35-7.40 (m, 1H), 7.56-7.63 (m, 2H), 7.69-7.75 (m, 1H), 7.86-7.91 (m, 1H), 7.99-8.03 (m, 1H), 8.46 (s, 1H), 8.61 (d, 1H), 9.98 (s, 1H); Mass spectrum MH+ 548.

reactant | N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-[2-(tetrahydro-2H-pyran-4-ylamino)ethoxy]quinazolin-4-amine | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)OCCNC1CCOCC1 | C27H28ClN5O3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-{2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazol-5-yl)oxy]ethyl}-N-(tetrahydro-2H-pyran-4-yl)acetamide | 68% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)OCCN(C(C)=O)C1CCOCC1 | C29H30ClN5O4
